US08012976B2
4-(9-(4-Fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde
To a solution of the crude 8-(4-(diethoxymethyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (3.0 g, 6.53 mmol) in water (10 mL) was added hydrochlorichttp://newsearchch.chemexper.com/cheminfo/servlet/org.dbcreator.MainServlet?sort=%3E%7Eentry.intValue&query=structure._structureID%3D4635571 &target=entry&action=PowerSearch&onclick=1 &from=0&history=off&forGroupNames=&style=&realQuery=rn.value%3D%22CF3COOH%22+elsor+entry.catalogID%3D%22CF3COOH%22+elsor+iupac.value%3D%22CF3COOH%22+elsor+mfvalue%3D %22CF3COOH%22+elsor+%28iupac.value%3D%7E%22CF3COOH%22+ or +catalog.description%3D%7E %22CF3COOH%22%29&format=ccd&searchTemplate=rn.value%3D %3F+elsor+entry.catalogID%3 D%3 acid (1N, 50 mL) at 0° C. The mixture was stirred at room temperature for 4 hr. Then the mixture was neutralized with potassium carbonate. The mixture was extracted with ethyl acetate (200 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give the crude title compound (2.5 g, yield 98%). LC-MS (ESI) m/z: 386 (M+1)+.

reactant | 8-(4-(diethoxymethyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 6.53 mmol, 3.0 g | C(C)OC(C1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)F)OCC | C27H26FN3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 mL | O | H2O
product | 4-(9-(4-Fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 2.5 g, yield 98% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
